US06573402B1
By following the similar procedure in Synthesis Example 1 by using 5-aminosalicylic acid (500 mg, 3.26 mmole) and pentafluorobenzyl bromide (1.02 g, 3.92 mmole), 650 mg (60% yield) of 5-(pentafluorobenzyl)aminosalicylic acid was obtained as a white solid.: mp>190° C. (decompose).

reactant | 5-aminosalicylic acid | 3.26 mmole, 500 mg | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | pentafluorobenzyl bromide | 3.92 mmole, 1.02 g | FC1=C(C(=C(C(=C1CBr)F)F)F)F | C7H2BrF5
product | 5-(pentafluorobenzyl)aminosalicylic acid | 650 mg, 60% yield | FC1=C(C(=C(C(=C1CNC1=CC=C(C(C(=O)O)=C1)O)F)F)F)F | C14H8F5NO3
